US08871756B2
5-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-oxa-5,7-diazaspiro[3.4]octan-6-one
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (372 mg, 1.0 mmol, prepared in analogy to the one in Example 17-1), tert-butyl [(3-aminooxetan-3-yl)methyl]carbamate (202 mg, 1.0 mmol), tris(dibenzylideneacetone)dipalladium(0) (91 mg, 0.10 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (62 mg, 0.10 mmol) and sodium tert-buoxide (192 mg, 2.0 mmol) in toluene (10 mL) was heated at 110° C. overnight. The resulting mixture was diluted with water (20 mL), and extracted with dichloromethane (20 mL×3). The combined organic layers were washed with brine (50 mL), dried over sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford 15 mg of the title compound. MS obsd. (ESI+) [(M+H)+] 465, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.15 (s, 1 H), 7.98-7.96 (d, J=7.2 Hz, 1 H), 7.90-7.87 (m, 1 H), 7.68-7.64 (m, 1 H), 7.53-7.46 (m, 2 H), 7.37-7.34 (m, 2 H), 7.17 (s, 1 H), 5.14 (s, 2 H), 4.80-4.74 (m, 4 H), 4.44 (s, 2 H), 4.27 (s, 2 H), 3.66-3.64 (t, J=4.8, 4.4 Hz, 2 H), 2.36 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | tert-butyl [(3-aminooxetan-3-yl)methyl]carbamate | 1.0 mmol, 202 mg | NC1(COC1)CNC(OC(C)(C)C)=O | C9H18N2O3
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.10 mmol, 62 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium | 2.0 mmol, 192 mg | [Na] | Na
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.10 mmol, 91 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-oxa-5,7-diazaspiro[3.4]octan-6-one | 15 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2C1(COC1)CNC2=O)C)=O | C24H24N4O4S
